US04544657
Preparation of 1-(2-methoxyphenyl)piperazine 1-oxide
To a stirred ice cold solution of 260 ml trifluoroacetic acid there was added under nitrogen, 26 g of tert-butyl-4-(2-methoxyphenyl)-1-piperazinecarboxylate 4-oxide and stirred for another 6 hours at ambient temperature. The solvent was removed in vacuo. The slurry was taken up in 200 ml ether and extracted twice with each 150 ml of water. The aqueous solution was applied to a column packed with 500 g Dowex 2 (×4, 20-50 mesh, OH- form) and the N-oxide-base eluted with water. After evaporation of the solvent in vacuo, the white foam (18.6 g) was dissolved in a minumum of methylene chloride and the base precipitated by addition of diisopropylether to give 13.1 g colorless hygroscopic crystals of 1-(2-methoxyphenyl)piperazine 1-oxide, mp 157°-160°. The dihydrochloride was crystallized from ethanol/ether, mp 192°-194°.

reactant | tert-butyl-4-(2-methoxyphenyl)-1-piperazinecarboxylate 4-oxide | 26 g | C(C)(C)(C)C1N(CC[N+](C1)(C1=C(C=CC=C1)OC)[O-])C(=O)[O-]
solvent | trifluoroacetic acid | 260 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-methoxyphenyl)piperazine 1-oxide | 13.1 g | COC1=C(C=CC=C1)[N+]1(CCNCC1)[O-] | C11H16N2O2
